US06664293B2
A solution of 1,2,3,6-tetrahydropyridine (0.25 g) and 4-phenoxycarbonylaminopyridine (0.64 g) in 1,2-dichloroethane (5 ml) was heated to 75° C. for 6 hours. Evaporation of the solvent gave a residue, which was chlomatographed on silica gel (50 ml) eluting with 0-5% methanol in dichloromethane, and taken up into a solution of hydrogen chloride in ethyl acetate (4N, 2 ml). Evaporation under reduced pressure and trituration with diisopropyl ether gave 1-(pyridin-4-ylcarbamoyl)-1,2,3,6-tetrahydropyridine hydrochloride (0.43 g).

reactant | 1,2,3,6-tetrahydropyridine | 0.25 g | N1CCC=CC1 | C5H9N
reactant | 4-phenoxycarbonylaminopyridine | 0.64 g | O(C1=CC=CC=C1)C(=O)NC1=CC=NC=C1 | C12H10N2O2
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 1-(pyridin-4-ylcarbamoyl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.43 g | Cl.N1=CC=C(C=C1)NC(=O)N1CCC=CC1 | InChI=1S/C11H13N3O.ClH/c15-11(14-8-2-1-3-9-14)13-10-4-6-12-7-5-10;/h1-2,4-7H,3,8-9H2,(H,12,13,15);1H
